US07012077B2
In this reaction, the solvents were degased with argon for 10 minutes. A suspension of 7.3 mg PdCl2(dppf), of 29.4 mg (0.24 mmol) of 4-pyridylboronic acid an of 70 mg (0.2 mmol) of trans-(5-Bromo-pyrimidin-2-yl)-[4-(3-dimethylamino-prop-1-ynyl)-cyclohexyl]-methyl-amine in 3.5 ml dioxane were treated with 1 ml of an aqueous solution of 2M Na2CO3. After 17 h at 85° C., 7 mg of PdCl2(dppf) were added and the reaction was heated further at 85° C. for 24 h. The mixture was partitioned between aqueous saturated NaHCO3/Et2O (3×) and the combined organic phases were extracted with 0.1M HCl. The HCl-phase was adjusted to pH 14 (1 N NaOH) and extracted with Et2O (3×). The organic phase was washed with 10% NaCl and dried over Na2SO4 to yield after purifiction with flash-chromatography on silica gel (CH2Cl2/MeOH 99:1 to 9:1) 9 mg (13%) of trans-[4-(3-Dimethylamino-prop-1-ynyl)-cyclohexyl]-methyl-(5-pyridin-4-yl-pyrimidin-2-yl)-amine, MS: 350 (MH+).

reactant | 4-pyridylboronic acid | 0.24 mmol, 29.4 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | trans-(5-Bromo-pyrimidin-2-yl)-[4-(3-dimethylamino-prop-1-ynyl)-cyclohexyl]-methyl-amine | 0.2 mmol, 70 mg | BrC=1C=NC(=NC1)N(C)[C@@H]1CC[C@H](CC1)C#CCN(C)C | C16H23BrN4
reactant | Na2CO3 | 2M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 3.5 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 7 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | trans-[4-(3-Dimethylamino-prop-1-ynyl)-cyclohexyl]-methyl-(5-pyridin-4-yl-pyrimidin-2-yl)-amine | CN(CC#C[C@@H]1CC[C@H](CC1)N(C1=NC=C(C=N1)C1=CC=NC=C1)C)C | C21H27N5
